US07691882B2
4-(2-Pyridin-2-yl-ethyl)benzyl alcohol
To an anhydrous tetrahydrofuran (50 mL) solution of methyl 4-(2-pyridin-2-yl-ethyl)benzoate 3.71 g, 15.4 mmol) described in Manufacturing Example 93-1-3 was added diisobutyl ammonium hydride (0.97 M toluene solution, 39.7 mL, 38.5 mmol) on a dry ice-ethanol bath (−78° C.) under nitrogen atmosphere. After 30 minutes of stirring, 15% aqueous potassium sodium tartrate solution (100 mL) was added to the reaction mixture, and stirred for 30 minutes at room temperature. Ethyl acetate (100 mL) was added, and the organic layer and water layer were separated. The organic layer was washed with water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure to obtain the title compound (3.16 g, 96%).

reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | methyl 4-(2-pyridin-2-yl-ethyl)benzoate | 15.4 mmol, 3.71 g | N1=C(C=CC=C1)CCC1=CC=C(C(=O)OC)C=C1 | C15H15NO2
reactant | diisobutyl ammonium hydride | 38.5 mmol, 0.97 M, 39.7 mL | [H-].C(C(C)C)[NH2+]CC(C)C
reactant | potassium sodium tartrate | 100 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-(2-Pyridin-2-yl-ethyl)benzyl alcohol | 3.16 g, 96% | N1=C(C=CC=C1)CCC1=CC=C(CO)C=C1 | C14H15NO
